US05688815
3-Hydroxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one
3-Benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one: 3.39 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[phenyl-(tetrahydropyran-2-yloxy)-methyl]-1H-pyridin-4-one are boiled under reflux for 3 hours in 40 ml of ethanol and 10 ml of 2N HCl. For working-up, the ethanol is removed using a rotary evaporator. The residue is diluted with 50 ml of water and covered with 10 ml of ethyl acetate. Then, with stirring, 25 ml of saturated aqueous sodium hydrogen carbonate solution are added. The resulting product is filtered off and washed with water and ethyl acetate. After drying, 3-benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one remains, in the form of colourless crystals. M.p.: 191.5°-192.5° C.

reactant | 3-Benzyloxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(C1=CC=CC=C1)O | C21H21NO4
reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[phenyl-(tetrahydropyran-2-yloxy)-methyl]-1H-pyridin-4-one | 3.39 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(OC1OCCCC1)C1=CC=CC=C1 | C26H29NO5
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | HCl | 2N, 10 ml | Cl | ClH
product | 3-Hydroxy-1-(2-hydroxy-ethyl)-2-(hydroxy-phenyl-methyl)-1H-pyridin-4-one | OC1=C(N(C=CC1=O)CCO)C(C1=CC=CC=C1)O | C14H15NO4
